US07713996B2
A solution of crude 3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-tert-butyl ester 7-methyl ester (2.7 g, 9.2 mmol) in methanol (30 ml) was treated with 3N NaOH (10 ml, 30 mmol, 3.3 equiv.) and stirred at room temperature for 5 h. The methanol was evaporated and the residual slurry was treated with 3N HCl (10 ml). The white precipitate was filtered, washing with water, and dried under high vacuum to afford 3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-tert-butyl ester as a white solid, 2.5 g (97%). MS (ISP): m/e=276.1 (M−H); δH (300 MHz; CDCl3) 8.40 (0.25H, s), 8.33 (0.75H, s), 7.70 (0.25H, d), 7.64 (0.75H, d), 7.14 (1H, m), 3.75 (2H, m), 2.82 (2H, m), 1.94 (2H, m), 1.54 (9H, s).

reactant | 3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-tert-butyl ester 7-methyl ester | 9.2 mmol, 2.7 g | COC(=O)C1=CC=C2CCCN(C2=C1)C(=O)OC(C)(C)C | C16H21NO4
reactant | NaOH | 30 mmol, 3N, 10 ml, 3.3 equiv. | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(=O)O | C15H19NO4
